US04351842
(i) Using the method of Preparation 3, phthalic anhydride and malonic acid gave 2-(1'-oxoethyl)benzoic acid (m.p. 110°) and thence 1-hydroxymethyl-2-(1'-hydroxyethyl)benzene (oil)

reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
product | 2-(1'-oxoethyl)benzoic acid | O=C(C)C1=C(C(=O)O)C=CC=C1 | C9H8O3
